US07211576B2
1-(4-Nitro-phenyl)-4-pyrrolidin-1-yl-piperidine
The compound was prepared from 4-pyrrolidin-1-yl-piperidine (Aldrich) and 4-fluoro-nitrobenzene (Aldrich) following the procedure used in Example 1. MS (m+H)+: 276.

reactant | 4-pyrrolidin-1-yl-piperidine | N1(CCCC1)C1CCNCC1 | C9H18N2
reactant | 4-fluoro-nitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
product | 1-(4-Nitro-phenyl)-4-pyrrolidin-1-yl-piperidine | [N+](=O)([O-])C1=CC=C(C=C1)N1CCC(CC1)N1CCCC1 | C15H21N3O2
